US05883102
1-(1-Oxobutyl)-4-piperidone ethylene ketal
Butyryl chloride (0.53 g, 5 mmol) in dry dichloromethane (5 ml) was added dropwise with stirring to 4-piperidone ethylene ketal (0.72g, 5 mmol) and pyridine (0.5 ml) in dry dichloromethane (10 ml). The solution was stirred at 20° C. overnight then washed successively with dilute HCl, saturated sodium bicarbonate solution and water and dried (sodium sulphate). Evaporation of the solvent gave the product as a clear syrup (0.66 g). MS (+EI) 213 (M+), 1H NMR (CDCl3) 3.98 (4H, s), 3.70 (2H, t), 3.53 (2H, t), 2.33 (2H, t), 1.61-1.83 (6H, m), 0.97 (3H, t).

reactant | Butyryl chloride | 5 mmol, 0.53 g | C(CCC)(=O)Cl | C4H7ClO
reactant | 4-piperidone ethylene ketal | 5 mmol, 0.72g | C1COC2(CCNCC2)O1 | C7H13NO2
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(1-Oxobutyl)-4-piperidone ethylene ketal | 0.66 g | C1COC2(CCN(CC2)C(CCC)=O)O1 | C11H19NO3
